US05786374
A mixture of 1.1 g of sodium bichromate dihydrate and 0.8 ml of sulfuric acid in 5 ml of water is slowly added dropwise to 1.6 g of 1-(1,2-benzisoxazol-3-yl)ethanol in 5 ml of diethyl ether. This mixture is stirred for 1 hour at room temperatur and then, with ice cooling, 50 ml of water are added and extraction wth diethyl ether is carried out three times. The combined ethereal extracts are washed once with a saturated solution of sodium bicarbonate, once with water and finally once with a saturated solution of sodium chloride, dried over sodium sulfate and concentrated under vacuum. The crude product is purified by chromatography over silica gel with ethyl acetate/hexane (1:3), giving 1-(1,2-benzisoxazol-3-yl)ethanone having a melting point of 30°-32° C.

reactant | sulfuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-(1,2-benzisoxazol-3-yl)ethanol | 1.6 g | O1N=C(C2=C1C=CC=C2)C(C)O | C9H9NO2
solvent | water | 5 ml | O | H2O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 1-(1,2-benzisoxazol-3-yl)ethanone | O1N=C(C2=C1C=CC=C2)C(C)=O | C9H7NO2
